US07074801B1
5-Bromo-2-(4-fluorobenzyl)-2,3-dihydroisoindol-1-one
A mixture of 458 mg methyl 4-bromo-2-methylbenzoate, 427 mg N-bromosuccinimide, 25 mg α,α′-azobisisobutyronitrile and 10 mL carbon tetrachloride was heated for 30 minutes under reflux. 50 mg N-bromosuccinimide was added thereto, and the mixture was further heated for 30 minutes under reflux. The reaction solution was cooled, insolubles were filtered off, and the filtrate was evaporated. 773 mg crude product of methyl 4-bromo-2-bromomethyl benzoate was obtained as a pale yellow oil. A mixture of this compound, 546 mg 4-fluorobenzyl amine, 0.34 mL triethylamine and 10 mL methanol was heated for 2 days under reflux. The reaction solution was cooled, and the precipitated crystals were collected by filtration and dried under reduced pressure with a vacuum pump, to give 219 mg of the title compound as pale brown crystals.

reactant | methyl 4-bromo-2-methylbenzoate | 458 mg | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | N-bromosuccinimide | 427 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | α,α′-azobisisobutyronitrile | 25 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 50 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-fluorobenzyl amine | 546 mg | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | methanol | 10 mL | CO | CH4O
solvent | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-2-(4-fluorobenzyl)-2,3-dihydroisoindol-1-one | 219 mg | BrC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)F | C15H11BrFNO
